US08685975B2
To a stirred solution of 4-(1H-pyrazol-1-yl)benzaldehyde (1.3 g, 7.55 mmol) and bromoform (0.85 mL, 9.75 mmol) in MeOH (10 mL) and dioxane (10 mL) was added dropwise a solution of potassium hydroxide (2.2 g, 39 mmol) in MeOH (10 mL) over 15 minutes. Stirring was then continued for 23 hours. The mixture was filtered through Celite, rinsed through with EtOAc and concentrated under reduced pressure to yield potassium 2-(4-(1H-pyrazol-1-yl)phenyl)-2-methoxyacetate as a light yellow solid (3.2 g) that was used without further purification. See U.S. Pat. No. 7,129,238.

reactant | 4-(1H-pyrazol-1-yl)benzaldehyde | 7.55 mmol, 1.3 g | N1(N=CC=C1)C1=CC=C(C=O)C=C1 | C10H8N2O
reactant | bromoform | 9.75 mmol, 0.85 mL | C(Br)(Br)Br | CHBr3
reactant | potassium hydroxide | 39 mmol, 2.2 g | [OH-].[K+]
reactant | MeOH | 10 mL | CO | CH4O
reactant | MeOH | 10 mL | CO | CH4O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | potassium 2-(4-(1H-pyrazol-1-yl)phenyl)-2-methoxyacetate | 3.2 g | N1(N=CC=C1)C1=CC=C(C=C1)C(C(=O)[O-])OC.[K+] | InChI=1S/C12H12N2O3.K/c1-17-11(12(15)16)9-3-5-10(6-4-9)14-8-2-7-13-14;/h2-8,11H,1H3,(H,15,16);/q;+1/p-1
